### PR TITLE
feat: n-th degree closed fields

### PR DESCRIPTION
**Pull request by vihdzp**
We introduce `Nimber.IsNthDegreeClosed`, which states that a nimber contains all roots of polynomials of degree ≤ n. We then prove various convenience results about this and `Nimber.IsAlgClosed`.

### CODE REVIEW

File: CombinatorialGames/Nimber/Simplicity.lean [hunk 1]
```diff
@@ -224,6 +216,9 @@ theorem IsGroup.zero : IsGroup 0 where
 theorem IsGroup.one : IsGroup 1 where
   add_lt := by simp
 
+theorem IsGroup.of_le_one {x : Nimber} (h : x ≤ 1) : IsGroup x := by
+  obtain rfl | rfl := Nimber.le_one_iff.1 h <;> simp
```
Comment (tristan-f-r) [inline CombinatorialGames/Nimber/Simplicity.lean]: I'm unsure about which one would be better.

```suggestion
  cases Nimber.le_one_iff.1 h <;> simp_all
```

File: CombinatorialGames/Nimber/Simplicity.lean [hunk 2]
```diff
@@ -378,6 +373,9 @@ theorem IsRing.one : IsRing 1 where
   mul_lt := by simp
   __ := IsGroup.one
 
+theorem IsRing.of_le_one {x : Nimber} (h : x ≤ 1) : IsRing x := by
+  obtain rfl | rfl := Nimber.le_one_iff.1 h <;> simp
```
Comment (tristan-f-r) [inline CombinatorialGames/Nimber/Simplicity.lean]: (Repeated comment) I'm unsure about which one would be better. This pattern also appears again.

```suggestion
  cases Nimber.le_one_iff.1 h <;> simp_all
```

File: CombinatorialGames/Nimber/Simplicity.lean [hunk 3]
```diff
@@ -600,9 +605,126 @@ protected theorem IsAlgClosed.sSup {s : Set Nimber} (H : ∀ x ∈ s, IsAlgClose
...
+degree less or equal to `n`. -/
+theorem IsNthDegreeClosed.ofMonic {n : ℕ} {x : Nimber} (h : IsField x)
+    (hp : ∀ p : Nimber[X], p.Monic → 0 < p.degree → p.degree ≤ n → (∀ k, p.coeff k < x) →
+      ∃ r < x, p.IsRoot r) : IsNthDegreeClosed n x where
+  has_root' p hp₀ hpn hp' := by
+    have hp₀' : p ≠ 0 := by rintro rfl; simp at hp₀
+    have hm : (C p.leadingCoeff⁻¹ * p).Monic := by simp [Monic, hp₀']
+    have hd : (C p.leadingCoeff⁻¹ * p).degree = p.degree := by compute_degree!
+    have := hp _ hm (hd ▸ hp₀) (hd ▸ hpn) fun k ↦ ?_
+    · aesop
```
Comment (tristan-f-r) [inline CombinatorialGames/Nimber/Simplicity.lean]:
```suggestion
    · simp_all
```

File: CombinatorialGames/Nimber/Simplicity.lean [hunk 4]
```diff
@@ -600,9 +605,126 @@ protected theorem IsAlgClosed.sSup {s : Set Nimber} (H : ∀ x ∈ s, IsAlgClose
...
+    · rw [coeff_C_mul, inv_mul_eq_div]
+      exact h.div_lt (hp' k) (hp' _)
+  __ := h
+
+@[simp]
+theorem isNthDegreeClosed_zero_iff_isRing {x : Nimber} : IsNthDegreeClosed 0 x ↔ IsRing x := by
+  refine ⟨IsNthDegreeClosed.toIsRing, fun h ↦ ⟨h, fun p ↦ ?_⟩⟩
+  cases _ : p.degree <;> aesop
```
Comment (tristan-f-r) [inline CombinatorialGames/Nimber/Simplicity.lean]:
```suggestion
  cases p.degree <;> aesop
```

File: CombinatorialGames/Nimber/Simplicity.lean [hunk 5]
```diff
@@ -600,9 +605,126 @@ protected theorem IsAlgClosed.sSup {s : Set Nimber} (H : ∀ x ∈ s, IsAlgClose
...
+
+theorem IsNthDegreeClosed.toIsField {n : ℕ} {x : Nimber} (h : IsNthDegreeClosed n x) (hn : 1 ≤ n) :
+    IsField x := by
+  obtain hx₁ | hx₁ := le_or_gt x 1
+  · exact IsField.of_le_one hx₁
+  · refine ⟨h.toIsRing, fun y hy₀ hy ↦ ?_⟩
```
Comment (tristan-f-r) [inline CombinatorialGames/Nimber/Simplicity.lean:637]: Unroll the implicit `cases` instead of shrinking it with `obtain`

```suggestion
  cases le_or_gt x 1 with
  | inl hx₁ => exact IsField.of_le_one hx₁
  | inr hx₁ =>
    refine ⟨h.toIsRing, fun y hy₀ hy ↦ ?_⟩
```

File: CombinatorialGames/Nimber/Simplicity.lean [hunk 6]
```diff
@@ -437,35 +435,31 @@ proof_wanted IsRing.two_two_pow (n : ℕ) : IsRing (∗(2 ^ 2 ^ n))
...
-  rw [lt_csSup_iff hs hs'] at *
-  obtain ⟨a, has, ha⟩ := hx
-  exact ⟨a, has, (H a has).inv_lt ha⟩
-
-protected theorem IsField.iSup {ι} {f : ι → Nimber} (H : ∀ i, IsField (f i)) :
-    IsField (⨆ i, f i) := by
-  apply IsField.sSup
-  simpa
+theorem IsField.of_le_one {x : Nimber} (h : x ≤ 1) : IsField x := by
+  obtain rfl | rfl := Nimber.le_one_iff.1 h <;> simp
```
Comment (tristan-f-r) [inline CombinatorialGames/Nimber/Simplicity.lean]:
```suggestion
  cases Nimber.le_one_iff.1 h <;> simp_all
```

File: CombinatorialGames/Nimber/Simplicity.lean [hunk 7]
```diff
@@ -482,11 +476,11 @@ theorem IsField.mul_eq_of_lt' {x y : Ordinal} (hx : IsField (∗x)) (hyx : y < x
 attribute [-simp] add_one_eq_succ in
 private theorem inv_lt_of_not_isField_aux {x : Nimber} (h' : IsRing x) (h : ¬ IsField x) :
     x⁻¹ < x ∧ ∀ y < x⁻¹, y⁻¹ < x := by
-  have hx₁ : 1 < x := by rw [← not_le, le_one_iff]; aesop
+  have hx₁ : 1 < x := lt_of_not_ge <| mt IsField.of_le_one h
   have hx₀ : x ≠ 0 := hx₁.ne_bot
   let s := {z | x ≤ z⁻¹}
   simp_rw [isField_iff, h', true_and, not_forall, not_lt] at h
-  obtain ⟨a, ha, hxa⟩ := h
+  obtain ⟨a, _, ha, hxa⟩ := h
```
Comment (tristan-f-r) [inline CombinatorialGames/Nimber/Simplicity.lean]:
```suggestion
  obtain ⟨a, -, ha, hxa⟩ := h
```

File: CombinatorialGames/Nimber/Simplicity.lean (hunk 1 above)
Comment (vihdzp) [reply CombinatorialGames/Nimber/Simplicity.lean]: I like the second one better.

File: CombinatorialGames/Nimber/Simplicity.lean (hunk 5 above)
Comment (vihdzp) [reply CombinatorialGames/Nimber/Simplicity.lean:637]: This "case on whether x ≤ 1 or 1 < x" thing is something I have to do a lot of times in subsequent PRs, and in all cases the x ≤ 1 branch is trivial or much easier, so I'd rather leave the compressed form.
